US07622583B2
A 25 mL round-bottom flask was charged with (3-amino-5-chloropyridin-2-yl)(3-fluorophenyl)methanone (130 mg, 0.52 mmol), 6-isopropoxypyridine-3-sulfonyl chloride (130 mg, 0.55 mmol), pyridine (2 mL) and dichloromethane (2 mL). The resultant solution was heated to 70° C. and stirred for 15 h. The pyridine was removed in vacuo and THF (5 mL) and 4.0 N NaOH (2 mL) were added. The mixture was stirred at 60° C. for 24 h. The solvent was subsequently removed in vacuo and the residue was diluted with water (5 mL) and the pH was adjusted to 6-7 with 10% HCl. The resultant aqueous solution was extracted with EtOAc, washed with brine, dried over MgSO4, and concentrated under reduced pressure. The residue was purified through automated normal-phase chromatography to afford N-(5-chloro-2-(3-fluorobenzoyl)pyridin-3-yl)-4-isopropoxybenzenesulfonamide (60 mg, 26%): 1H NMR (400 MHz, CDCl3) δ 10.62 (s, 1 H), 8.58 (d, 1 H), 8.32 (d, 1 H), 8.18 (d, 1 H), 7.86 (dd, 1 H), 7.60 (dd, 1 H), 7.52 (dt, 1 H), 7.40 (m, 1 H), 7.30 (dd, 1 H), 6.60 (d, 1 H), 5.30 (sep, 1 H), 1.30 (d, 1 H); MS (ES) (M++2 H) expect 250.0, found 250.1.

reactant | (3-amino-5-chloropyridin-2-yl)(3-fluorophenyl)methanone | 0.52 mmol, 130 mg | NC=1C(=NC=C(C1)Cl)C(=O)C1=CC(=CC=C1)F | C12H8ClFN2O
reactant | 6-isopropoxypyridine-3-sulfonyl chloride | 0.55 mmol, 130 mg | C(C)(C)OC1=CC=C(C=N1)S(=O)(=O)Cl | C8H10ClNO3S
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-(5-chloro-2-(3-fluorobenzoyl)pyridin-3-yl)-4-isopropoxybenzenesulfonamide | 60 mg, 26% | ClC=1C=C(C(=NC1)C(C1=CC(=CC=C1)F)=O)NS(=O)(=O)C1=CC=C(C=C1)OC(C)C | C21H18ClFN2O4S
